US07262185B2
7-[4-(2-butoxyethoxy)phenyl]-N-[4-[hydroxy(pyridin-2-yl)methyl]-3-methylphenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide (0.95 g) was dissolved in dichloromethane (25 ml), and to the solution was added 3-chloroperbenzoic acid (0.42 g) at: room temperature under ice-cooling and the mixture was stirred for 3.5 hours. An aqueous solution of sodium thiosulfate was added to the mixture, the mixture was concentrated, and extracted with ethyl acetate. The organic layer was washed with sodium bicarbonate solution, water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was evaporated, to give 7-[4-(2-butoxyethoxy)phenyl]-N-[4-[hydroxy(1-oxidopyridin-2-yl)methyl]-3-methylphenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide (0.82 g) as colorless crystals.

reactant | 7-[4-(2-butoxyethoxy)phenyl]-N-[4-[hydroxy(pyridin-2-yl)methyl]-3-methylphenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 0.95 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C(F)(F)F)=O)C(=O)NC2=CC(=C(C=C2)C(C2=NC=CC=C2)O)C)C1 | C38H38F3N3O5
reactant | 3-chloroperbenzoic acid | 0.42 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7-[4-(2-butoxyethoxy)phenyl]-N-[4-[hydroxy(1-oxidopyridin-2-yl)methyl]-3-methylphenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 0.82 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C(F)(F)F)=O)C(=O)NC2=CC(=C(C=C2)C(C2=[N+](C=CC=C2)[O-])O)C)C1 | C38H38F3N3O6
